US05116874
N-{[(4-chlorophenyl)amino]carbonyl}-2,3-dihydro-1-methyl-1H-indole-5-sulfonamide
Following the procedure of Example 3B, the title product was prepared in 60% yield from [(2,3-dihydro-1-methyl-1H-indol-5-yl)sulfonyl]carbamic acid ethyl ester and 4-chloroaniline, m.p. 145°-147° C.

reactant | [(2,3-dihydro-1-methyl-1H-indol-5-yl)sulfonyl]carbamic acid ethyl ester | C(C)OC(NS(=O)(=O)C=1C=C2CCN(C2=CC1)C)=O | C12H16N2O4S
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | N-{[(4-chlorophenyl)amino]carbonyl}-2,3-dihydro-1-methyl-1H-indole-5-sulfonamide | 60% yield | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1C=C2CCN(C2=CC1)C | C16H16ClN3O3S
